US04851412
3-(2-Hydroxyethyl)-2-methylimidazo[4,5-c]pyridine
2-Methylimidazo[4,5-c]pyridine (10.6 g) was mixed with ethylene carbonate (8.3 g) and heated as a melt at 150° C. for 1/2 hour. The crude black product was chromatographed on silica eluting with 40% methanol in ethyl acetate. The fraction with Rf 0.33 in methanol, ethyl acetate, (2:3) was evaporated and was identified as a mixture of the title compound and of the isomeric 1-(2-hydroxyethyl)-2-methylimidazo[4,5-c]pyridine. The mixture was chromatographed on silica eluting with 20% methanol in acetone. Fractions containing the more mobile isomer were combined and evaporated yielding the title compound (1.22 g, 9%) as a foam.

reactant | 2-Methylimidazo[4,5-c]pyridine | 10.6 g | CC=1NC2=C(C=NC=C2)N1 | C7H7N3
reactant | ethylene carbonate | 8.3 g | C1(OCCO1)=O | C3H4O3
product | 3-(2-Hydroxyethyl)-2-methylimidazo[4,5-c]pyridine | 1.22 g, 9% | OCCN1C(=NC2=C1C=NC=C2)C | C9H11N3O
